US08110579B2
According to the method described in example 4.4, starting from 1.99 g (5.38 mmol) of methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-oxo-1,6-dihydropyridine-3-carboxylate and 2.26 ml (13.45 mmol) of trifluoromethanesulphonic anhydride, we obtain 1.6 g of methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-{[(trifluoromethyl)sulphonyl]oxy}nicotinate in the form of oil.

reactant | methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-oxo-1,6-dihydropyridine-3-carboxylate | 5.38 mmol, 1.99 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=CC(=CNC1=O)C(=O)OC | C20H16ClNO4
reactant | trifluoromethanesulphonic anhydride | 13.45 mmol, 2.26 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | methyl 5-[3-(benzyloxy)-4-chlorophenyl]-6-{[(trifluoromethyl)sulphonyl]oxy}nicotinate | 1.6 g, Yield=60% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C=1C(=NC=C(C(=O)OC)C1)OS(=O)(=O)C(F)(F)F | C21H15ClF3NO6S
